US09382188B2
step 1) 1-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-yl)-2,2-dimethylbutan-1-ol
Under a nitrogen atmosphere, to a suspension of lithium aluminum hydride (28.2 mg) in THF (5.7 mL) was added dropwise a solution of 1-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-yl)-2,2-dimethylbutan-1-one (162.2 mg) in THF (1.9 mL) at 0° C., and the mixture was stirred for 10 min. To the reaction mixture was added a small portion of sodium sulfate decahydrate at 0° C., and the mixture was filtered. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (155 mg) as a colorless oil.

reactant | lithium aluminum hydride | 28.2 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-yl)-2,2-dimethylbutan-1-one | 162.2 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)C(C(CC)(C)C)=O | C27H29FO4
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 5.7 mL | C1CCOC1 | C4H8O
solvent | THF | 1.9 mL | C1CCOC1 | C4H8O
product | 1-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-yl)-2,2-dimethylbutan-1-ol | 155 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)C(C(CC)(C)C)O | C27H31FO4
